US06767907B2
1-(6-Acetylaminoindan-1-ylmethyl)-4-(4-fluorophenyl)piperidine 4a
To a solution of 1-(6-aminoindan-1-ylmethyl)-4-(4-fluorophenyl)piperidine, 2a (6.5 g) and triethylamine (3 ml) in dichloromethane (150 ml) cooled to 0° C. was added dropwise a solution of acetylchloride (1.7 g) in dichloromethane (50 ml). The mixture was stirred for one hour at room temperature. Water (500 ml) was added, the organic phase separated, washed with brine (2×50 ml) and finally worked-up as above. The thus isolated crude title product was purified by column chromatography on silica gel (eluted with a mixture of ethyl acetate/heptane/triethylamine 75:25:4). Recrystallization from diethyl ether yielded 7.7 g of pure title compound 4a. Mp: 159-162° C. 1H NMR (CDCl3): δ 1.70-1.90 (m, 5H); 2.00-2.15 (m, 1H); 2.15 (s, 3H); 2.20-2.30 (m, 1H); 2.35-2.50 (m, 2H); 2.60 (dd, 1H); 2.70-2.90 (m, 2H); 2.95-3.15 (m, 2H); 3.45 (qui, 1H); 6.95 (t, 2H); 7.05-7.25 (m, 5H); 7.55 (s, 1H)

reactant | 1-(6-aminoindan-1-ylmethyl)-4-(4-fluorophenyl)piperidine | NC1=CC=C2CCC(C2=C1)CN1CCC(CC1)C1=CC=C(C=C1)F | C21H25FN2
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | acetylchloride | 1.7 g | C(C)(=O)Cl | C2H3ClO
reactant | Water | 500 ml | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(6-Acetylaminoindan-1-ylmethyl)-4-(4-fluorophenyl)piperidine | 7.7 g | C(C)(=O)NC1=CC=C2CCC(C2=C1)CN1CCC(CC1)C1=CC=C(C=C1)F | C23H27FN2O
